US05455258
To a solution of t-butyl 2(R)-[[4-methoxybenzenesulfonyl]amino]-4-methylpentanoate (10.0 g, 27.92 mmol)in dimethylformamide (250 mL) at room temperature is added 3-picolyl chloride hydrochloride (4.81 g, 29.32 mmol) followed by sodium hydride (2.79 g, 69.80 mmol, 60% in oil). The reaction mixture is stirred at room temperature for 48 hours. The mixture is quenched with water and extracted with ethyl acetate. The combined organic extracts are washed with brine, dried (Na2SO4), and the solvent is evaporated. The crude product is purified by silica gel chromatography (45% ethyl acetate/hexanes) to provide t-butyl 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-4-methylpentanoate.

reactant | t-butyl 2(R)-[[4-methoxybenzenesulfonyl]amino]-4-methylpentanoate | 27.92 mmol, 10.0 g | COC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)OC(C)(C)C)CC(C)C | C17H27NO5S
reactant | 3-picolyl chloride hydrochloride | 29.32 mmol, 4.81 g | Cl.N1=CC(=CC=C1)CCl
reactant | sodium hydride | 69.80 mmol, 2.79 g | [H-].[Na+]
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | t-butyl 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-4-methylpentanoate | COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)OC(C)(C)C)CC(C)C)CC=1C=NC=CC1 | C23H32N2O5S
